US07375113B2
1-Benzyloxy-3-vinylbenzene
The title compound was prepared in a similar manner to that described in Reference Example 20 using 3-hydroxybenzaldehyde and benzyl bromide instead of 4-hydroxybenzaldehyde and benzyl 3-bromopropyl ether, respectively.

reactant | 3-hydroxybenzaldehyde | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | benzyl 3-bromopropyl ether | BrCCCOCC1=CC=CC=C1 | C10H13BrO
product | 1-Benzyloxy-3-vinylbenzene | C(C1=CC=CC=C1)OC1=CC(=CC=C1)C=C | C15H14O
